US08212032B2
A mixture of ({4-bromo-2-[(trifluoromethyl)oxy]phenyl}methyl)amine (0.4 g, 1.041 mmol), 3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid (0.276 g, 1.041 mmol), 1H-1,2,3-benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate (BOP reagent, 0.507 g, 1.146 mmol) and diisopropylethylamine (0.364 ml, 2.083 mmol) in N,N-Dimethylformamide (DMF) (5 ml) was stirred overnight at RT. The reaction mixture was treated with water which caused a precipitate to form. The precipitate was filtered and washed with water, and dried to give N-({4-bromo-2-[(trifluoromethyl)oxy]phenyl}methyl)-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide (0.35 g, 0.543 mmol, 53%) as an off-white solid. MS (ES) m/e 517, 519 [M+H]+.

reactant | ({4-bromo-2-[(trifluoromethyl)oxy]phenyl}methyl)amine | 1.041 mmol, 0.4 g | BrC1=CC(=C(C=C1)CN)OC(F)(F)F | C8H7BrF3NO
reactant | 3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid | 1.041 mmol, 0.276 g | CC1=NC(=NC(=N1)NC)NC1CC(CCC1)C(=O)O | C12H19N5O2
reactant | 1H-1,2,3-benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate | 1.146 mmol, 0.507 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 2.083 mmol, 0.364 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-Dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-({4-bromo-2-[(trifluoromethyl)oxy]phenyl}methyl)-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide | 0.543 mmol, 0.35 g, 53% | BrC1=CC(=C(C=C1)CNC(=O)C1CC(CCC1)NC1=NC(=NC(=N1)C)NC)OC(F)(F)F | C20H24BrF3N6O2
